Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.8010233205
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.5824616241999998
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:7]\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:6],2.66867940497
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],5.25927256192
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:12]([H:13])([H:14])[H:15].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],4.57605321898
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],4.37738869737
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8],7.54814421479
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6][H:7],6.958602589430001
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.11577373111
[H:5].[O:1]=[C:2]([H:3])[C:4]([C:6][O:7][H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11],-1.57524525095
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],0.62125818709
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][C:11][H:12],3.94069026774
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][C:12]([H:13])([H:14])[H:15],4.76684062691
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.310561622287
[C:2]([C:7]=[O:10])([H:8])([H:9])[H:11].[O:1]([C:3]([H:4])[H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.3735893116900004
[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.69585732626
[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.67562197273
[C:1].[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.38910851196
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2],7.35788570646
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[O:12][H:13],2.9272844468799994
[H:1][C:8]([C:7]#[C:2])([C:9]([H:10])[H:11])[H:12].[H:3][C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.685394712100001
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-2.69476649641
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],7.48922724253
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[H:13],8.38713405
[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8],1.08476505262
[C:5](=[O:6])[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@@:3]([H:4])([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.25508813617
[O:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:8]([H:9])[H:10].[O:1][C:4](=[O:3])[C:5]([H:6])([H:7])[H:11],3.31216111118
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]=[C:2][H:3],3.75755954221
